US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N'-phenylurea]
To 6.9 grams (0.033 moles) of 1-t-butylazo-1-isocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 3.08 grams (0.033 moles) aniline. The reaction mixture was stirred for three days at room temperature. The solid mass that formed was slurried in pentane and filtered. The filter cake was air dried and weighed 9.2 grams (92% crude yield). The product melted at 169°-171° C. with decomposition and the infrared spectrum of the product contained a strong carbonyl band at 1650 cm-1 and a sharp NH band at 3320 cm-1 and the isocyanate band at 2225 cm-1 of the starting material was absent.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.033 moles, 6.9 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | aniline | 0.033 moles, 3.08 grams | NC1=CC=CC=C1 | C6H7N
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N'-phenylurea | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)NC1=CC=CC=C1 | C17H26N4O
